US09416135B2
The mixture of (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate (284 mg, 0.8 mmol), ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate (296 mg, 1.2 mmol, 1.5 eq.) and DIEA (310 mg, 2.4 mmol, 3 eq.) in CH2Cl2/i-PrOH (3 mL/3 mL) was stirred at 80° C. for 16 h. TLC showed compound was consumed completely PE:EtOAc=1:1. The solvents were removed under vacuum and the residue was dissolved in EtOAc (10 mL). Water (10 mL) was added to the mixture. The mixture was extracted with EtOAc (10 mL×3). The organic layers were dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by column chromatography on silica gel eluting with PE:EtOAc 5:1 to give (R)-ethyl 2-(8-(acetoxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate (0.41 g, 87% yield) as a pale yellow solid.

reactant | (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methyl acetate | 0.8 mmol, 284 mg | C(C)(=O)OCC=1C(=CC2=C(N=C3N2CCN[C@@H]3C(C)C)C1)S(=O)(=O)C | C17H23N3O4S
reactant | ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate | 1.2 mmol, 296 mg, 1.5 eq. | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC | C8H6ClF3N2O2
reactant | DIEA | 2.4 mmol, 310 mg, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 i-PrOH | 3 mL | C(Cl)Cl.CC(C)O
product | (R)-ethyl 2-(8-(acetoxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate | 0.41 g, 87% yield | C(C)(=O)OCC=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)OCC)C1)S(=O)(=O)C | C25H28F3N5O6S
